* source LM393
.EXTERNAL INPUT IN-
.EXTERNAL INPUT OUT
.EXTERNAL INPUT Vcc
.EXTERNAL INPUT GND
.EXTERNAL INPUT IN+
V_VINN4         IN- 0 5
R_R5         0 GND  1m TC=0,0 
R_R4         VCC OUT  10k TC=0,0 
V_VINN3         VCC 0 37
V_V2         IN+ 0  
+SIN 5 100m 100k 0 0 0
X_U1         IN+ IN- VCC GND OUT LM2903B
